US07834044B2
7-Benzyloxy-1-(1H-imidazol-2-ylmethyl)-1,2,3,4-tetrahydro-quinoline
Analogously to Example 37, the above compound was obtained from 1,2,3,4-tetrahydro-quinolin-7-ol, di-tert-butyldicarbonate and triethylamine in dichloromethane, then treatment with sodium hydroxide in methanol, then treatment with benzyl bromide and sodium hydride in N,N-dimethylformamide, then treatment with trifluoroacetic acid, then treatment with imidazole-2-carboxaldehyde, zinc chloride and sodium cyanoborohydride in methanol. MS (ISP): 320.0 ([M+H]+).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | [H-].[Na+]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | imidazole-2-carboxaldehyde | N1C(=NC=C1)C=O | C4H4N2O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 7-Benzyloxy-1-(1H-imidazol-2-ylmethyl)-1,2,3,4-tetrahydro-quinoline | C(C1=CC=CC=C1)OC1=CC=C2CCCN(C2=C1)CC=1NC=CN1 | C20H21N3O
